US05202315
A. Preparation of ethyl (Z)-2-(butoxycarbonylmethoxyimino)-2-[2-(triphenylmethyl)aminothiazol-4-yl]acetate
To ethyl (Z)-2-(hydroxyimino)-2-[2-(triphenylmethyl)aminothiazol-4-yl]acetate(46 g) were added potassium carbonate(27.6 g), tert-butyl-2-bromopropionate(20 g) and dimethylsulfoxide(300 ml). The reaction mixture was stirred for 5 hours at room temperature, followed by addition of ethyl ether (2 l). After the reaction mixture was washed 5 times with distilled water(500 ml), the separated organic layer was dehydrated and concentrated to give the above-indicated compound(47.2 g) in a yellow solid.

reactant | ethyl (Z)-2-(hydroxyimino)-2-[2-(triphenylmethyl)aminothiazol-4-yl]acetate | 46 g | O\N=C(/C(=O)OCC)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H23N3O3S
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl-2-bromopropionate | 20 g | C(C)(C)(C)OC(C(C)Br)=O | C7H13BrO2
reactant | dimethylsulfoxide | 300 ml | CS(=O)C | C2H6OS
reactant | ethyl ether | 2 l | C(C)OCC | C4H10O
product | ethyl (Z)-2-(butoxycarbonylmethoxyimino)-2-[2-(triphenylmethyl)aminothiazol-4-yl]acetate | 47.2 g | C(CCC)OC(=O)CO\N=C(/C(=O)OCC)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H33N3O5S
